US07314936B2
Benzoyl chloride (305 μL, 1.5 eq.) was added to a solution of 5-amino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (407 mg, 1.74 mmol) and triethylamine (1.2 mL, 5.0 eq.) in dichloromethane (5 mL) at 0° C. and the resulting mixture was stirred for 15 min. The reaction was then quenched by addition of sat. NaHCO3 and the mixture was extracted with 3×EtOAc. The combined extracts were dried over Na2SO4, filtered, concentrated and the product was purified by chromatography (20 to 100% EtOAc-hexanes) to give 5-benzoylamino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (588 mg, 100%).

reactant | Benzoyl chloride | 305 μL, 1.5 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5-amino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.74 mmol, 407 mg | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)N | C13H18N2O2
reactant | triethylamine | 1.2 mL, 5.0 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-benzoylamino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 588 mg, 100% | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)NC(C1=CC=CC=C1)=O | C20H22N2O3
